US08431596B2
(5-Methylsulfanyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine
A microwave vial containing 5-methylsulfanyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (13.5 g, 74.9 mmol), 1-(2-(4-bromophenoxy)ethyl)pyrrolidine (20.2 mL, 97.3 mmol), tris(dibenzylideneacetone)dipalladium (3.42 g, 3.74 mmol), xantphos (4.33 g, 7.49 mmol), sodium tert-butoxide (14.7 g, 150 mmol) and 1,4-dioxane (90 mL) was heated under microwave radiation (150° C., 10 min). N,N-Dimethylacetamide (1 mL) was added to assist with microwave absorption. The volatiles were removed under rotary evaporation and the product then purified by graduated flash column chromatography (2-10% methanol: dichloromethane) to provide a pale brown solid. Yield: 19.3 g, 70%; LCMS method: 2, RT: 2.28 min, MI: 370 [M+1]. 1H NMR (CDCl3, 300 MHz): 7.53 (d, 2H), 7.40 (d 1H), 7.26 (d, 1H), 7.10 (s, 1H), 6.93 (d 2H), 6.64 (d, 1H), 4.11 (t, 2H), 2.90 (t, 2H), 2.64 (s, 7H), 1.81 (s, 4H).

reactant | 5-methylsulfanyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 74.9 mmol, 13.5 g | CSC1=CC=CC=2N1N=C(N2)N | C7H8N4S
reactant | 1-(2-(4-bromophenoxy)ethyl)pyrrolidine | 97.3 mmol, 20.2 mL | BrC1=CC=C(OCCN2CCCC2)C=C1 | C12H16BrNO
reactant | xantphos | 7.49 mmol, 4.33 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 150 mmol, 14.7 g | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 3.74 mmol, 3.42 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | N,N-Dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
solvent | 1,4-dioxane | 90 mL | O1CCOCC1 | C4H8O2
product | (5-Methylsulfanyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | CSC1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OCCN2CCCC2 | C19H23N5OS
